US04211791
3-cyano-4-hydroxy-7-(4-phenylbutoxy) coumarin
3-cyano-4-hydroxy-7-(5-phenylpentoxy) coumarin and 5-(3-[4-acetyl-3-hydroxy-2-n-propylphenoxy]butoxy)-3-cyano-4-hydroxy coumarin

reactant | 3-cyano-4-hydroxy-7-(5-phenylpentoxy) coumarin | C(#N)C=1C(OC2=CC(=CC=C2C1O)OCCCCCC1=CC=CC=C1)=O | C21H19NO4
reactant | 5-(3-[4-acetyl-3-hydroxy-2-n-propylphenoxy]butoxy)-3-cyano-4-hydroxy coumarin | C(C)(=O)C1=C(C(=C(OC(CCOC2=C3C(=C(C(OC3=CC=C2)=O)C#N)O)C)C=C1)CCC)O | C25H25NO7
product | 3-cyano-4-hydroxy-7-(4-phenylbutoxy) coumarin | C(#N)C=1C(OC2=CC(=CC=C2C1O)OCCCCC1=CC=CC=C1)=O | C20H17NO4
